US05084447
A solution of 3-bromo-7-[(phenoxyacetyl)amino]-8-oxo-1-azabicyclo[4.2.0]oct-2-ene-2-carboxylic acid (diphenylmethyl)ester (784 mg, 1.4 mmol) in triethyl phosphite (4 mL) was refluxed under nitrogen for 90 minutes. After cooling, the reaction was poured into hexanes. The supernatant liquid was decanted from the resulting semi-solid which was then dissolved in ethyl acetate and purified by flash-chromatography on silica gel (50% ethyl acetate/hexanes to 100% ethyl acetate) to provide 7-[(phenoxyacetyl)amino]-8-oxo-3-(diethoxyphosphinyl)-1-azabicyclo[4.2.0]oct-2-ene-2-carboxylic acid (diphenylmethyl) ester (100 mg; 16%):

reactant | 3-bromo-7-[(phenoxyacetyl)amino]-8-oxo-1-azabicyclo[4.2.0]oct-2-ene-2-carboxylic acid (diphenylmethyl)ester | 1.4 mmol, 784 mg | C1(=CC=CC=C1)C(C1=CC=CC=C1)OC(=O)C=1N2C(C(C2CCC1Br)NC(COC1=CC=CC=C1)=O)=O | C29H25BrN2O5
reactant | triethyl phosphite | 4 mL | P(OCC)(OCC)OCC | C6H15O3P
product | 7-[(phenoxyacetyl)amino]-8-oxo-3-(diethoxyphosphinyl)-1-azabicyclo[4.2.0]oct-2-ene-2-carboxylic acid (diphenylmethyl) ester | 100 mg, 16% | C1(=CC=CC=C1)C(C1=CC=CC=C1)OC(=O)C=1N2C(C(C2CCC1P(=O)(OCC)OCC)NC(COC1=CC=CC=C1)=O)=O | C33H35N2O8P
